US05245046
Methyl (+/-)-α-(1-phenylmethyl-3-indolylmethyl)aminophenylacetate (see Chart III for preparation of Examples 31-40)
To a suspension of methyl (+/-)-phenylglycinate hydrochloride (4.00 g, 19.8 mmol) in MeOH (50 mL), and HOAc (4 mL) was added 1-phenylmethyl-indole-3-carboxaldehyde (2.85 g, 12.1 mmol). The resulting mixture was allowed to stir at room temperature for 20 minutes; then NaBH3CN (1.98 g, 31.5 mmol) was added in one portion. The suspension was allowed to stir at room temperature for 18 hours, then was concentrated in vacuo to furnish a sticky white semi-solid. The crude reaction mixture was partitioned between 20% aqueous NaOH (0.25 L) and EtOAc (0.25 L); the organic phase was separated, washed with brine (0.25 L), and dried (Na2SO4). Concentration in vacuo afforded the crude product as a pale green oil which was purified by chromatography on a column of silica gel (230-400 mesh, 500 g, 70 mm o.d., EtOAc-hexanes 25:75, 400 mL fractions) using the flash technique. Fractions 8-13 were combined to provide 2.0 g (43%) of the title compound as a white solid. Recrystallization from EtOAc-hexanes provided white needles, m.p. 109°-110° C.

reactant | methyl (+/-)-phenylglycinate hydrochloride | 19.8 mmol, 4.00 g | Cl.C1(=CC=CC=C1)NCC(=O)OC
reactant | HOAc | 4 mL | CC(=O)O | C2H4O2
reactant | 1-phenylmethyl-indole-3-carboxaldehyde | 12.1 mmol, 2.85 g | C1(=CC=CC=C1)CN1C=C(C2=CC=CC=C12)C=O | C16H13NO
reactant | NaBH3CN | 31.5 mmol, 1.98 g | [BH3-]C#N.[Na+]
reactant | MeOH | 50 mL | CO | CH4O
product | Methyl (+/-)-α-(1-phenylmethyl-3-indolylmethyl)aminophenylacetate | 2.0 g, 43% | C1(=CC=CC=C1)CN1C=C(C2=CC=CC=C12)CNC(C(=O)OC)C1=CC=CC=C1 | C25H24N2O2
